US08859571B2
A mixture of 4-chloro-6,7-bis(methyloxy)quinazoline (100 mg, 0.445 mmol) and 3-amino-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (139 mg, 0.490 mmol) in i-PrOH (2 mL) was subjected to microwave irradiation (100° C., 2 bar) for 30 minutes before being cooled to room temperature. The solid that formed was collected by filtration and washed with isopropanol to give 3-{[6,7-bis(methyloxy)-4-quinazolinyl]amino}-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide hydrochloride (160 mg, 70%) as a pale yellow solid.

reactant | 4-chloro-6,7-bis(methyloxy)quinazoline | 0.445 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 3-amino-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 0.490 mmol, 139 mg | NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC | C9H11F3N2O3S
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 3-{[6,7-bis(methyloxy)-4-quinazolinyl]amino}-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide hydrochloride | 160 mg, 70% | Cl.COC=1C=C2C(=NC=NC2=CC1OC)NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC | InChI=1S/C19H19F3N4O5S.ClH/c1-23-32(27,28)11-4-5-15(31-9-19(20,21)22)14(6-11)26-18-12-7-16(29-2)17(30-3)8-13(12)24-10-25-18;/h4-8,10,23H,9H2,1-3H3,(H,24,25,26);1H
